### PR TITLE
feat: `Nat.shiftRight_bitwise_distrib`

### PR DESCRIPTION
**Pull request by tydeu**
This PR adds  `Nat` theorems for distributing `>>>` over bitwise operations, paralleling those of `BitVec`.

This enables closing goals like the following using `simp`:

```lean
example (n : Nat) : (n <<< 2 ||| 3) >>> 2 = n := by simp [Nat.shiftRight_or_distrib]
```

It might be nice for these theorems to be `simp` lemmas, but they are not currently in order to be consistent with the existing `BitVec` and `div_two` theorems.

### CODE REVIEW

**Comment by tobiasgrosser** [comment]
> It might be nice for these theorems to be simp lemmas, but they are not currently in order to be consistent with the existing BitVec and div_two theorems.

Can you expand on this? This PR adds:

```lean
theorem shiftRight_and_distrib {a b : Nat} : (a &&& b) >>> i = a >>> i &&& b >>> i :=
  shiftRight_bitwise_distrib
```

while the BitVev library has 

```lean
 theorem ushiftRight_and_distrib (x y : BitVec w) (n : Nat) :
    (x &&& y) >>> n = (x >>> n) &&& (y >>> n) := by
  ext
  simp
```

This seem to be consistent among data types. What would be needed to make these `simp` lemmas? AFAIU neither direction is strictly more canonical. Do you have specific improvements in mind? I would be happy to explore these in the BitVec library.

**Comment by tydeu** [comment]
@tobiasgrosser

> What would be needed to make these `simp` lemmas? AFAIU neither direction is strictly more canonical. Do you have specific improvements in mind? I would be happy to explore these in the BitVec library.

My thesis is that distributing `shiftRight` (and factoring out `shiftLeft`)  is the natural direction because both reduce the number of bits considered by the bitwise operations. This reduces complexity and increases the chance the rest can be `simp`'ed away. I think the example in the PR description is a good demonstration of the kind of expression that it would be great to be able to  `simp` by default:

```lean
example (n : Nat) : (n <<< 2 ||| 3) >>> 2 = n := by simp
```

Nonetheless, there are cases were distributing `shiftRight` can be bad. If the subterm can already simplified due to the presence of literals or a hypothesis, distributing can impair this. For instance:

```lean
example (n : Nat) : (1 &&& 3) >>> n = 1 >>> n := by simp 
```

Distributing first here would create the term `(1 >>> n  &&& 3 >>> n)` which can no longer be `simp`'ed. Luckily, this is not a problem if distribution is a bottom-up simplification lemma (i.e., `@[simp ↑]`, the default), as `simp` will apply potential simplifications to the subterm before distributing (and then simplifying again).

Weighing thees pros and cons lead me to believe the making the `shiftRight` distribution lemmas `@[simp]` would be preferable. However, I am not an expert in this area and there could be cases I have not considered where this poses a problem, hence my initial reservation.

File: src/Init/Data/Nat/Bitwise/Lemmas.lean [hunk 1]
```diff
@@ -440,6 +452,11 @@ theorem bitwise_lt_two_pow (left : x < 2^n) (right : y < 2^n) : (Nat.bitwise f x
       case neg =>
         apply Nat.add_lt_add <;> exact hyp1
 
+theorem bitwise_div_two_pow (false_false_axiom : f false false = false := by rfl) :
```
Comment (kim-em) [inline src/Init/Data/Nat/Bitwise/Lemmas.lean:455]:
```suggestion
theorem bitwise_div_two_pow (of_false_false : f false false = false := by rfl) :
```

Comment (kim-em) [reply src/Init/Data/Nat/Bitwise/Lemmas.lean:455]: and below.

**Comment by kim-em** [comment]
Otherwise, LGTM.

**Review by kim-em — APPROVED** [review]
